US05292740
A solution of 0.353 g of 4,6-dichloro-5-(2-methoxyphenoxy)-2-(thiophen-2-yl)-pyrimidine in 5 ml of DMSO was heated to 150° C. with 0.376 g of p-tert-butylbenzenesulphonamide for 30 minutes. The solution was concentrated in a high vacuum and the oily residue was poured on to ice, made acid (pH=3) and the suspension was extracted with ethyl acetate. The organic extracts were combined, washed with water, dried over sodium sulfate and concentrated under reduced pressure. The residue was chromatographed on silica gel with toluene-ethyl acetate 9:1 and yielded 4-tert-butyl-N-[6-chloro-5-(2-methoxyphenoxy)-2-(thiophen-2-yl)-pyrimidin-4-yl]-benzenesulphonamide as a white foam.

reactant | 4,6-dichloro-5-(2-methoxyphenoxy)-2-(thiophen-2-yl)-pyrimidine | 0.353 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C=1SC=CC1 | C15H10Cl2N2O2S
reactant | p-tert-butylbenzenesulphonamide | 0.376 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N | C10H15NO2S
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 4-tert-butyl-N-[6-chloro-5-(2-methoxyphenoxy)-2-(thiophen-2-yl)-pyrimidin-4-yl]-benzenesulphonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C=1SC=CC1 | C25H24ClN3O4S2
